### PR TITLE
Update dependencies

### PR DESCRIPTION
**Pull request by RemyDegenne**
I removed some definitions and lemmas that were upstreamed to Mathlib but I did not try to find all of those.

### CODE REVIEW

File: BrownianMotion/Continuity/CoveringNumber.lean [hunk 1]
```diff
@@ -561,6 +561,7 @@ theorem internalCoveringNumber_Icc_zero_one_le_one_div {ε : ℝ≥0∞} (hε :
     obtain rfl | h1 := eq_or_lt_of_le hx2
     · refine ⟨k / (k + 1), mem_C k one_le_k le_rfl rfl, edist_le ?_⟩
       field_simp
+      simp only [add_sub_cancel_left]
       rwa [abs_of_nonneg (by positivity)]
```
Comment (EtienneC30) [inline BrownianMotion/Continuity/CoveringNumber.lean:565]:
```suggestion
      rwa [add_sub_cancel_left, abs_of_nonneg (by positivity)]
```

File: BrownianMotion/Gaussian/BrownianMotion.lean [hunk 2]
```diff
@@ -114,11 +107,16 @@ lemma memHolder_brownian (ω : ℝ≥0 → ℝ) (t : ℝ≥0) (β : ℝ≥0) (h
   suffices ⨆ n, (((n + 2 : ℕ) : ℝ) - 1) / (2 * (n + 2 : ℕ)) = 2⁻¹ by rw [this]; norm_cast
   refine iSup_eq_of_forall_le_of_tendsto (F := Filter.atTop) (fun n ↦ ?_) ?_
   · calc
-    ((↑(n + 2) : ℝ) - 1) / (2 * ↑(n + 2)) = 2⁻¹ * (n + 1) / (n + 2) := by field_simp; ring
+    ((↑(n + 2) : ℝ) - 1) / (2 * ↑(n + 2)) = 2⁻¹ * (n + 1) / (n + 2) := by
+      simp only [Nat.cast_add, Nat.cast_ofNat]; field_simp; ring
```
Comment (EtienneC30) [inline BrownianMotion/Gaussian/BrownianMotion.lean:111]: Sébastien told me that you don't have to squeeze the `simp` when it is followed by a flexible tactic because it is less probable that it will break, and it is easier to read.

File: BrownianMotion/Gaussian/BrownianMotion.lean [hunk 3]
```diff
@@ -114,11 +107,16 @@ lemma memHolder_brownian (ω : ℝ≥0 → ℝ) (t : ℝ≥0) (β : ℝ≥0) (h
...
     _ ≤ 2⁻¹ * 1 := by grw [mul_div_assoc, (div_le_one₀ (by positivity)).2]; linarith
     _ = 2⁻¹ := mul_one _
   · have : (fun n : ℕ ↦ ((↑(n + 2) : ℝ) - 1) / (2 * ↑(n + 2))) =
-        (fun n : ℕ ↦ 2⁻¹ * ((n : ℝ) / (n + 1))) ∘ (fun n ↦ n + 1) := by ext n; field_simp; ring
+        (fun n : ℕ ↦ 2⁻¹ * ((n : ℝ) / (n + 1))) ∘ (fun n ↦ n + 1) := by
+      ext n
+      simp only [Nat.cast_add, Nat.cast_ofNat, Function.comp_apply, Nat.cast_one]
```
Comment (EtienneC30) [inline BrownianMotion/Gaussian/BrownianMotion.lean:117]: Same remark here

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: BrownianMotion/Gaussian/BrownianMotion.lean (hunk 2 above)
Comment (EtienneC30) [reply BrownianMotion/Gaussian/BrownianMotion.lean:111]: Sorry my bad, I didn't know there was a linter for this, but I thought `field_simp` was considered flexible.
